US07842803B2
a) 5-[(2R)-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-furo[2,3-b]pyridin]-5′-yl]-2-furaldehyde
To a solution of (2R)-5′-bromo-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-furo[2,3-b]pyridine] (6 g, 20.3 mmol) in 400 mL of a DME:H2O:EtOH mixture (7:3:2) was added 5-formyl-2-furanboronic acid (5.67 g, 40.5 mmol). The reaction mixture was purged with N2 (directly into the solvent) and stirred for ten minutes until homogeneous. Solid Na2CO3 (8.6 g, 81.0 mmol) was added to the reaction mixture followed by Pd(PPh3)2Cl2 (711 mg, 1.0 mmol). The reaction mixture was again purged with N2 for 10 min, then heated at 65° C. for 6 h. The reaction mixture was stirred at rt overnight, then concentrated via rotary evaporator. The resulting residue was diluted with CHCl3 and filtered through diatomaceous earth. The CHCl3 filtrate was concentrated and the resulting residue was diluted with 1N HCl and extracted with EtOAc (3×150 mL). The acidic aqueous layer was made basic with the addition of 2N aqueous NaOH (to pH˜12) and the basic aqueous solution was extracted with CHCl3 (3×150 mL). The combined CHCl3 layer was washed with brine, dried (Na2SO4), filtered and concentrated to a solid (5.79 g, 92% yield). This material was used without further purification. 1H NMR (500 MHz, CDCl3) δ 1.46-1.53 (m, 1H), 1.68-1.71 (m, 2H), 2.03-2.04 (m, 1H), 2.22-2.26 (m, 1H), 2.78-2.94 (m, 3H), 2.97 (d, J=14.7 Hz, 1H), 3.00-3.04 (m, 1H), 3.07 (d, J=16.5 Hz, 1H), 3.40 (d, J=14.7 Hz, 1H), 3.47 (d, J=16.5 Hz, 1H), 6.74 (d, J=3.7 Hz, 1H), 7.30 (d, J=3.7 Hz, 1H), 7.89 (s, 1H), 8.48 (s, 1H), 9.62 (s, 1H) MS ES+, m/z=311 (M+H+).

reactant | (2R)-5′-bromo-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-furo[2,3-b]pyridine] | 20.3 mmol, 6 g | BrC=1C=C2C(=NC1)O[C@]1(C2)C2CCN(C1)CC2 | C13H15BrN2O
reactant | H2O | O | H2O
reactant | 5-formyl-2-furanboronic acid | 40.5 mmol, 5.67 g | C(=O)C1=CC=C(O1)B(O)O | C5H5BO4
reactant | Na2CO3 | 81.0 mmol, 8.6 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 400 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)2Cl2 | 1.0 mmol, 711 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | EtOH | CCO | C2H6O
product | 5-[(2R)-3′H-spiro[4-azabicyclo[2.2.2]octane-2,2′-furo[2,3-b]pyridin]-5′-yl]-2-furaldehyde | 5.79 g, 92% yield | O1[C@]2(CC=3C1=NC=C(C3)C3=CC=C(O3)C=O)C3CCN(C2)CC3 | C18H18N2O3
